US05635500
To a solution of benzhydryl 7-[2-trityloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[2-(2-pyridyl)thiovinyl]-3-cephem-4-carboxylate (2.4 g) in a mixture of acetonitrile (12 ml) and methylene chloride (4.8 ml) was added methyl iodide (18.7 ml) and the mixture was stirred at room temperature for 3 days. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in chloroform (38 ml) and dripped into diisopropyl ether (120 ml). The resultant precipitate was recovered to provide benzhydryl 7-[2-trityloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate iodide (3.5 g).

reactant | benzhydryl 7-[2-trityloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[2-(2-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C70H54N6O5S3
reactant | methyl iodide | 18.7 ml | CI | CH3I
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | methylene chloride | 4.8 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-[2-trityloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate iodide | 3.5 g | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CS[CH2+]2N(C=CC=C2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C71H59N6O5S3.HI/c1-76-46-27-26-44-60(76)83-47-45-52-48-84-67-62(66(79)77(67)63(52)68(80)81-64(50-28-10-2-11-29-50)51-30-12-3-13-31-51)73-65(78)61(75-82-71(56-38-20-7-21-39-56,57-40-22-8-23-41-57)58-42-24-9-25-43-58)59-49-85-69(72-59)74-70(53-32-14-4-15-33-53,54-34-16-5-17-35-54)55-36-18-6-19-37-55;/h2-47,49,62,64,67H,48,60H2,1H3,(H,72,74)(H,73,78);1H/q+1;/p-1/t62?,67-;/m1./s1
